US07781598B2
Trichloroisocyanuric acid (0.51 g, 2.2 mmol) was added to a solution of bis(p-chlorophenyl)disulphide (1.84 g, 6.4 mmol) in ethyl acetate (15 ml) at ambient temperature resulting in formation of a yellow suspension. After stirring for 5 minutes at this temperature, a slurry of (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid (3.0 g, 12.8 mmol) in ethyl acetate (30 ml) was added followed by an ethyl acetate rinse (6 ml). Stirring was continued for 40 minutes at ambient temperature. The solid product was collected by filtration, washed with ethyl acetate (2×10 ml) then dried overnight in a vacuum oven at 50° C. to provide [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid as a bright yellow solid, 2.93 g. The by-product, cyanuric acid, was not removed during the work up.

reactant | Trichloroisocyanuric acid | 2.2 mmol, 0.51 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | bis(p-chlorophenyl)disulphide | 6.4 mmol, 1.84 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
reactant | (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid | 12.8 mmol, 3.0 g | [N+](=O)([O-])C1=C2C=C(N(C2=CC=C1)CC(=O)O)C | C11H10N2O4
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | [3-(4-chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indol-1-yl]acetic acid | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=CC(=C12)[N+](=O)[O-])CC(=O)O)C | C17H13ClN2O4S
